US07763642B2
5-(4-Benzyloxy-benzenesulfonylamino)-isophthalic acid dimethyl ester (CAB04124):
4-Benzyloxy-benzenesulfonyl chloride (7.35 g, 26.0 mmol) was added in small portions to a suspension of 5-amino isophtalic acid dimethyl ester (5.23 g, 25.0 mmol) in DCM (100 ml) and pyridine (10 ml). The resulting clear yellow solution was stirred for 2 hours at room temperature, the volatile solvents were removed under reduced pressure, the solid residue was suspended in MeOH (125 ml) and the mixture was heated to reflux for 10 minutes. The off white solid was filtered off, washed with water and cold MeOH and dried under high vacuum. Yield 10.93 g (96%).

reactant | 4-Benzyloxy-benzenesulfonyl chloride | 26.0 mmol, 7.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | 5-amino isophtalic acid dimethyl ester | 25.0 mmol, 5.23 g | COC(C1=CC(C(=O)OC)=CC(=C1)N)=O | C10H11NO4
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-Benzyloxy-benzenesulfonylamino)-isophthalic acid dimethyl ester | COC(C1=CC(C(=O)OC)=CC(=C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C23H21NO7S
